US08314088B2
(6S)-6-methyl-3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
A mixture of (6S)-8-benzyl-6-methyl-3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (70 mg), 20% Pd(OH)2/C (70 mg) and methanol (2 mL) was stirred under a hydrogen atmosphere at 50° C. for 2 hr. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (solvent gradient; 20→100% ethyl acetate/hexane) and recrystallized (ethyl acetate-hexane) to give the title compound (11.1 mg, 21%) as colorless crystals.

reactant | (6S)-8-benzyl-6-methyl-3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 70 mg | C(C1=CC=CC=C1)N1C[C@@H](OC2=C(C1)N=CC(=N2)N2CCOCC2)C | C19H24N4O2
catalyst | Pd(OH)2/C | 70 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 2 mL | CO | CH4O
product | (6S)-6-methyl-3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 11.1 mg, 21% | C[C@@H]1OC2=C(CNC1)N=CC(=N2)N2CCOCC2 | C12H18N4O2
